US07649104B2
In a 2 L-reaction flask equipped with a rectification column, 116.7 g (0.55 mol) of 2-phenyl-4-cyanomethyl-5-ethyl-1,2,3-triazole, 91 g (0.5 mol) of 1,3,4-trimethylpyrazol-5-carboxylic acid ethyl ester, 900 g of heptane, 60 g of diethylene glycol dimethyl ether, and 30 g of diethylene glycol monoethyl ether were added, then azeotropic dehydration was carried out by heating at 90 to 95° C., thereafter 115.5 g (0.6 mol) of 28% sodium was added dropwise over 10 hours, and the resulting mixture was reacted for 7 hours. After cooling to 30° C. or less, 3000 g of water was added to separate out heptane phase, and further the aqueous phase was washed with 600 g of heptane, the heptane phase was separated out, 900 g of xylene was added, then 62.5 g (0.6 mol) of 35% hydrochloric acid was added dropwise to be neutralized. The aqueous phase was separated out, washed with 600 g of water two times, the aqueous phase was separated out to obtain a xylene solution containing 156.8 g (yield 90%) of 3-oxo-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)propionitrile.

reactant | 2-phenyl-4-cyanomethyl-5-ethyl-1,2,3-triazole | 0.55 mol, 116.7 g | C1(=CC=CC=C1)N1N=C(C(=N1)CC#N)CC | C12H12N4
reactant | 1,3,4-trimethylpyrazol-5-carboxylic acid ethyl ester | 0.5 mol, 91 g | C(C)OC(=O)C1=C(C(=NN1C)C)C | C9H14N2O2
reactant | diethylene glycol monoethyl ether | 30 g | C(C)OCCOCCO | C6H14O3
reactant | sodium | 0.6 mol, 115.5 g | [Na] | Na
reactant | hydrochloric acid | 0.6 mol, 62.5 g | Cl | ClH
solvent | water | 3000 g | O | H2O
solvent | diethylene glycol dimethyl ether | 60 g | COCCOCCOC | C6H14O3
solvent | heptane | 900 g | CCCCCCC | C7H16
product | 3-oxo-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)propionitrile | 156.8 g, yield 90% | O=C(C(C#N)C1=NN(N=C1CC)C1=CC=CC=C1)C1=C(C(=NN1C)C)C | C19H20N6O
